Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:3]1([H:11])[C:5]([H:15])([H:16])[C@@:6]1([O:7][H:19])[H:18])([H:8])([H:9])[H:10].[C:4]([H:12])([H:13])([H:14])[H:17],87.54418280628741
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][O:4][C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],87.2106269300533
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]1=[C:5]([N:6]=[O:3])[C:4]1([H:9])[H:10])([H:7])[H:8],142.552730382391
[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[N:6]1[H:14])[H:10]>>[C:1]([N:2]([C:3](=[C:4]([C:5]([N:6]([H:8])[H:14])([H:12])[H:13])[H:11])[H:10])[H:9])[H:7],64.5073518387171
[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C@:1]1([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])[C:2][C:3]1([H:8])[H:9],93.7684635577931
[C:1](=[C:2]([O:3][H:7])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],46.704041490688496
[C:1](=[C:2]=[C:3]=[C:4]([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])[H:9].[C:5]([H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],65.60697816607166
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:6](/[C:4]([O+:3]=[C:2]([H:11])[H:12])=[N:5]\[H:13])=[N-:7])([H:8])([H:9])[H:10],87.27844642780322
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]([C@@:4]1([H:13])[C:6]([H:17])([H:18])[O:7]1)([C:5]([H:14])([H:15])[H:16])([H:11])[H:12],77.5187107360766
[N:1](=[N:7]/[C:6]#[C:2][O:3][C:4](=[O:5])[H:9])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],87.2567471049703
[C:1]([C@@:2]1([H:11])[O:3][C@:4]1([O:5][H:12])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],22.69509541001821
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:7](=[C:6])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],59.6400678152742
[C:1](/[C:2](=[C:4](\[C:5]#[N:6])[H:14])[H:15])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],100.8336704461587
[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:13].[N:2](=[C:3]=[O:4])[H:10].[O:5]=[C:6]([H:11])[H:12],95.5854062708177
[C-:3]#[O+:4].[C:1]([O:2][H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:15])[H:13])([H:11])[H:12]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],49.143826349935
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:6](=[C:5])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],15.429220090691395
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:5]([O:4][H:11])=[C:6]1[H:12])([H:8])[H:9])[H:7],64.6489281034106
[N:1](=[C:2](/[C:7](=[C:6]=[O:5])[H:10])[H:9])\[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],37.4804426460332
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[C:5]1=[C:6]([H:8])[H:12])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],70.24797889946242
[C:1]([C:2](=[C:3])[N:7]=[C:5]([O:4][H:11])[O:6][H:12])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10],3.472025240931103
[C:1]([N+:6]#[C-:5])([H:7])([H:8])[H:9].[C:2](=[C:3]([O:4][H:13])[H:12])([H:10])[H:11]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],87.43352918919649
[C:1]([C:2]([C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10].[N:3](=[C:4]=[N:5][H:14])[H:13]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],87.78704331910947
[C:1]([C:2]1([C:6]#[N:7])[C:3]([H:11])([H:13])[C:4]1([H:14])[H:15])([H:8])([H:9])[H:10].[O:5]([H:12])[H:16]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],69.8628131696835
[C:1]([C:2]1=[C:4]([H:11])[C@:6]([O:5][H:12])([H:13])[O:7][O:3]1)([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],16.994648971951804
[N:1]#[C:2][C:3]([N:5]=[C:4]([H:7])[H:8])([H:6])[H:9]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],80.28474704309039
